US09238656B2
Synthesis of (1S,2S,3R,4R)-3-(6-Chloro-2-{4-[4-((S)-2-hydroxypropyl)-piperazin-1-ylmethyl]-2-methoxyphenyl}-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound XLIII)
(1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-4-piperazin-1-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound XLII above) (45 mg, 0.088 mmol) was reacted with (S)-(−)-propylene oxide (7.7 mg, 0.13 mmol) in methanol (5 mL) at 60° C. in a sealed tube for six hours. The reaction was concentrated to afford the title compound as a rust colored solid (14 mg, 28%). Mp 142-6° C. 1H NMR (d-chloroform): 10.76 (br s, 1H), 8.34 (d, J=9 Hz, 1H), 8.04 (s, 1H), 7.12 (m, 2H), 6.37 (m, 3H), 5.57 (d, J=9 Hz, 1H), 5.19 (m, 2H), 4.08 (s, 3H), 3.84 (m, 1H), 3.58 (s, 2H), 3.49 (m, 1H), 3.18 (s, 1H), 2.92 (s 1H), 2.87 (d, J=9 Hz, 1H), 2.72 (m, 2H), 2.62-2.39 (m, 2H), 2.35 (d, J=0 Hz, 1H), 2.26 (m, 1H), 1.76 (d, J=7 Hz, 1H), 1.31 (m, 1H), 1.15 (d, J=9 Hz, 3H). MS: 566.21 (M+H). HPLC retention time: 1.71 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-4-piperazin-1-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.088 mmol, 45 mg | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)CN2CCNCC2)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C26H30ClN7O2
reactant | (S)-(−)-propylene oxide | 0.13 mmol, 7.7 mg | C1[C@H](C)O1 | C3H6O
solvent | methanol | 5 mL | CO | CH4O
product | (1S,2S,3R,4R)-3-(6-Chloro-2-{4-[4-((S)-2-hydroxypropyl)-piperazin-1-ylmethyl]-2-methoxyphenyl}-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)CN2CCN(CC2)C[C@H](C)O)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C29H36ClN7O3
